US04996218
4-Amino-3,5-dichloro-α-[[[6-[2-(2-benzoxazolyl)ethoxy]hexyl]amino]methyl]benzenemethanol
A solution of 4-amino-3,5-dichloro-α-[[[6-[2-(2-benzoxazolyl)ethoxy]hexyl](phenylmethyl)amino]methyl]benzenemethanol (1.09 g) in ethanol (25 ml) containing conc. hydrochloric acid-ethanol (1:9, 1.78 ml) was added to a pre-hydrogenated suspension of 10% palladium on carbon (50% aqueous paste, 0.65 g) and hydrogenated at room temperature and pressure, then filtered through hyflo and evaporated in vacuo. The residue was partitioned between 8% sodium bicarbonate (25 ml) and ethyl acetate (50 ml) and the organic phase dried and evaporated in vacuo to a semi solid. Purification by FCC over silica (Merck 60) eluting with System B (97:2:1→94:5:1) afforded the title compound as a gum, which crystallised after trituration with hexane to a white solid (613 g) m.p. 85°-87°.

reactant | 4-amino-3,5-dichloro-α-[[[6-[2-(2-benzoxazolyl)ethoxy]hexyl](phenylmethyl)amino]methyl]benzenemethanol | 1.09 g | NC1=C(C=C(C=C1Cl)C(O)CN(CC1=CC=CC=C1)CCCCCCOCCC=1OC2=C(N1)C=CC=C2)Cl | C30H35Cl2N3O3
reactant | hydrochloric acid ethanol | 1.78 ml | Cl.C(C)O
solvent | ethanol | 25 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.65 g | [Pd] | Pd
product | 4-Amino-3,5-dichloro-α-[[[6-[2-(2-benzoxazolyl)ethoxy]hexyl]amino]methyl]benzenemethanol | NC1=C(C=C(C=C1Cl)C(O)CNCCCCCCOCCC=1OC2=C(N1)C=CC=C2)Cl | C23H29Cl2N3O3
